US03996361
1.38 g (0.06 mole) of sodium are dissolved in 120 ml of isopropanol. 8.9 g (0.06 mole) of N6 -methyl-adenine are added to this solution, which is then heated under reflux for 10 minutes, cooled and 15.8 g (0.066 mole) of 3-(4-phenyl-piperazino)-propyl chloride in 30 ml of isopropanol are added thereto. This reaction mixture is heated under reflux for 6 hours. Thereafter, it is cooled, suction filtered and sodium chloride washed out from the residue with water. After washing with water and drying, the product is recrystallized from isopropanol. There are obtained 9.5 g (45% of theory) of N6 -methyl-9-[3-(4-phenyl-piperazino)-propyl]-adenine, which has a melting point of 162°-163° C.

reactant | sodium | 0.06 mole, 1.38 g | [Na] | Na
reactant | N6 -methyl-adenine | 0.06 mole, 8.9 g | CNC1=C2NC=NC2=NC=N1 | C6H7N5
reactant | 3-(4-phenyl-piperazino)-propyl chloride | 0.066 mole, 15.8 g | C1(=CC=CC=C1)N1CCN(CC1)CCCCl | C13H19ClN2
solvent | isopropanol | 120 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 30 ml | C(C)(C)O | C3H8O
product | N6 -methyl-9-[3-(4-phenyl-piperazino)-propyl]-adenine | 9.5 g, 45% | CNC1=C2N=CN(C2=NC=N1)CCCN1CCN(CC1)C1=CC=CC=C1 | C19H25N7
